US06998412B2
3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzyl-bromide
3-{[5-Methyl-2-(p-tolyl)oxazol-4-yl]methyl}-benzyl alcohol (3.52 g) was dissolved in 60 ml of dichloromethane. After addition of 3.77 g of triphenylphosphine and 5.17 g of carbon tetrabromide, the mixture was stirred for 30 minutes at room temperature. The reaction solution was concentrated and the residue was purified by silica gel column chromatography (Wakogel® C-200, n-hexane:ethyl acetate=4:1) to provide 3.96 g of the objective compound as colorless crystals. M.p. 101–102° C.

reactant | 3-{[5-Methyl-2-(p-tolyl)oxazol-4-yl]methyl}-benzyl alcohol | 3.52 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CC=1C=C(CO)C=CC1 | C19H19NO2
reactant | triphenylphosphine | 3.77 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 5.17 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzyl-bromide | 3.96 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CC=1C=C(CBr)C=CC1 | C19H18BrNO
